US04839348
A mixture of ethyl 2-(m-nitrophenylmethylene)-4-chloro-3-oxobutanoate (80 g) and methyl 3-aminocrotonate (32.7 g) in EtOH (800 ml) is heated to reflux temperature for 15 minutes, then, without isolating the formed intermediate, 2-amino-7-chloro-3-carboethoxy-5-carbomethoxy-4-(m-nitrophenyl)-6-oxo-2-heptene, the mixture is cooled at 0° C. and acidified with aqueous concentrated HCl (3 ml). After two hours the reaction mixture is neutralized with a few drops of a saturated NaHCO3 solution and evaporated to dryness. The residue is dissolved in AcOEt (400 ml), washed with water (4×50 ml), dried on Na2SO4 and concentrated in vacuum. The residue is dissolved in Et2O to give 80 g of 2-chloromethyl-3-carboethoxy-5-carbomethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine (m.p. 119°-120° C.).

reactant | ethyl 2-(m-nitrophenylmethylene)-4-chloro-3-oxobutanoate | 80 g | [N+](=O)([O-])C=1C=C(C=CC1)C=C(C(=O)OCC)C(CCl)=O | C13H12ClNO5
reactant | methyl 3-aminocrotonate | 32.7 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | EtOH | 800 ml | CCO | C2H6O
product | 2-amino-7-chloro-3-carboethoxy-5-carbomethoxy-4-(m-nitrophenyl)-6-oxo-2-heptene | NC(C)=C(C(C(C(CCl)=O)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C18H21ClN2O7
